US08487093B2
Step 4: (2S,5R)—N-[(4S)-Azepan-4-yl]-7-oxo-6-(sulfooxy)-1,6-diazabicyclo[3.2.1]octane-2-carboxamide
To a solution of N,N,N-tributylbutan-1-aminium {[((2S,5R)-2-{[(4S)-azepan-4-ylamino]carbonyl}-7-oxo-1,6-diazabicyclo[3.2.1]oct-6-yl)oxy]sulfonyl}oxidanide (30.9 mg, 0.067 mmol) in anhydrous dichloromethane (7 mL) at 0° C. under nitrogen was added trifluoroacetic acid (0.5 mL, 6.5 mmol) dropwise. The reaction mixture was stirred for two hours then concentrated under vacuum. Ether was added to the residue and the resulting white precipitate was collected by centrifugation. The precipitate was purified by HPLC on a Phenomenex Synergy Polar-RP 80A column and lyophilized to afford the title compound as a white solid. LC-MS (negative ionization) m/e 361 (M−H); LC-MS (positive ionization) m/e 385 (M+Na); 1H NMR (600 MHz, D2O; unreferenced) (δ, ppm) 4.17 (1H, br d, J=3 Hz), 3.96-4.03 (2H, m), 3.27-3.38 (3H, m), 3.15-3.22 (2H, m), 3.02 (1H, d, J=12 Hz), 1.62-2.18 (m, 12H).

reactant | N,N,N-tributylbutan-1-aminium {[((2S,5R)-2-{[(4S)-azepan-4-ylamino]carbonyl}-7-oxo-1,6-diazabicyclo[3.2.1]oct-6-yl)oxy]sulfonyl}oxidanide | 0.067 mmol, 30.9 mg | N1CC[C@H](CCC1)NC(=O)[C@H]1N2C(N([C@H](CC1)C2)OS(=O)(=O)[O-])=O.C(CCC)[N+](CCCC)(CCCC)CCCC
reactant | trifluoroacetic acid | 6.5 mmol, 0.5 mL | FC(C(=O)O)(F)F | C2HF3O2
solvent | dichloromethane | 7 mL | ClCCl | CH2Cl2
product | (2S,5R)—N-[(4S)-Azepan-4-yl]-7-oxo-6-(sulfooxy)-1,6-diazabicyclo[3.2.1]octane-2-carboxamide | N1CC[C@H](CCC1)NC(=O)[C@H]1N2C(N([C@H](CC1)C2)OS(=O)(=O)O)=O | C13H22N4O6S
